US07300951B2
1. 2-Ethyl-4, 4, 4-trifluorobutyric Acid
A solution of diisopropylamine (17.1 g, 169 mmol) in THF (180 mL) was stirred under nitrogen at 0° C. n-Butyl lithium (n-BuLi-67.6 mL, 2.5 M in hexane) was added dropwise over 15 min and the resulting solution stirred for 0.5 h at 0° C. After this time period, the reaction was cooled to −78° C., and 4,4,4-trifluorobutyric acid (10.0 g, 70.4 mmol) in THF (20 mL) was added dropwise over 0.5 h. The resulting solution was stirred for an additional 0.5 h at −78° C. After this time period, ethyl iodide (6.19 mL, 77.4 mmol) was added dropwise over 15 min. The resulting solution was stirred for 15 min. at −78° C. then warmed to 25° C. for 24 h. After this time period, the reaction mixture was quenched by slow addition of H2O (˜20 mL). After concentration, the residue was acidified to pH 1 with 2 N aq. HCl and then extracted with Et2O (400 mL). The organic layer was then dried using MgSO4. After concentration, the resulting residue was used directly in the next reaction without further purification.

reactant | diisopropylamine | 169 mmol, 17.1 g | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyl lithium | 2.5 M, 67.6 mL | C(CCC)[Li]
reactant | 4,4,4-trifluorobutyric acid | 70.4 mmol, 10.0 g | FC(CCC(=O)O)(F)F | C4H5F3O2
reactant | ethyl iodide | 77.4 mmol, 6.19 mL | C(C)I | C2H5I
solvent | THF | 180 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-Ethyl-4, 4, 4-trifluorobutyric Acid | C(C)C(C(=O)O)CC(F)(F)F | C6H9F3O2
